US04937243
Diethyl 2-(2-methylpropyl)-3-oxopentanedioate (D1)
Diethyl 3-oxopentanedioate (45.5 ml, 0.25 mol) was added to a suspension of magnesium ethoxide (prepared from magnesium turnings (9 g, 0.375 mol) and iodine (0.1 g) in dry ethanol (275 ml)), and the mixture was heated under reflux for 90 min. 1-Bromo-2-methylpropane (54 ml, 0.5 mol) was added, and the reaction was heated under reflux for 16 h. Further 1-bromo-2-methylpropane (27 ml, 0.25 mol) was added to the boiling mixture, and after 3 h the solvent was evaporated in vacuo. The residue was partitioned between 2N hydrochloric acid and ether. After extracting the aqueous phase with ether, the combined organics were washed successively with water, 5% sodium bicarbonate, water and brine, then were dried (Na2SO4) and evaporated in vacuo. The residue was distilled to give the title compound as a colourless oil (40 g, 62%), bp 118°-120° C. (1mmHg).

reactant | Diethyl 3-oxopentanedioate | 0.25 mol, 45.5 ml | O=C(CC(=O)OCC)CC(=O)OCC | C9H14O5
reactant | magnesium ethoxide | 0.375 mol, 275 ml, 9 g | [O-]CC.[Mg+2].[O-]CC
reactant | 1-Bromo-2-methylpropane | 0.5 mol, 54 ml | BrCC(C)C | C4H9Br
reactant | 1-bromo-2-methylpropane | 0.25 mol, 27 ml | BrCC(C)C | C4H9Br
product | Diethyl 2-(2-methylpropyl)-3-oxopentanedioate | 40 g, 62% | CC(CC(C(=O)OCC)C(CC(=O)OCC)=O)C | C13H22O5
